US04837225
2,5-Dimethyl-1-(2-(2-oxo-1-pyrrolidinyl)ethyl)pyrrole
5.7 g (0.05 mmol) of acetonylacetone and 6.4 g (0.05 mmol) of 1-(2-aminoethyl)-2-pyrrolidinone are heated under reflux in 70 ml of methanol for 2 h. The reaction mixture is then concentrated and, after the concentration, the crude reaction product is then precipitated by addition of petroleum ether. The crude product is recrystallized from diethyl ether. Yield: 3.2 g (31% of theory), Melting point: 66°-68° C. Elemental analysis: C12H18N2O (206.29) calculated: C 69.9 H 8.8 N 13.6 0 7.8 found: C 69.4 H 8.7 N 13.7 0 8.11

reactant | acetonylacetone | 0.05 mmol, 5.7 g | C(C(=O)C)CC(C)=O | C6H10O2
reactant | 1-(2-aminoethyl)-2-pyrrolidinone | 0.05 mmol, 6.4 g | NCCN1C(CCC1)=O | C6H12N2O
solvent | methanol | 70 ml | CO | CH4O
product | 2,5-Dimethyl-1-(2-(2-oxo-1-pyrrolidinyl)ethyl)pyrrole | CC=1N(C(=CC1)C)CCN1C(CCC1)=O | C12H18N2O
